US04447358
A solution of 6.7 g of bromine in 5 ml of acetic acid is slowly added dropwise at room temperature to a mixture of 5.7 g of 3,4-dicyanoaniline, 3.6 g of sodium acetate and 25 ml of acetic acid. When the addition of bromine is complete, the mixture is further stirred at room temperature until no more educt can be detected in a thin-layer chromatogram. The acetic acid is then removed in vacuo in a rotary evaporator. The residue is taken up in warm water and the product is isolated by filtration. The filter cake is washed well with water and dried in vacuo at 70° C., affording bromo-3,4-dicyanoaniline as a grey product which dissolves in dimethyl formamide to give an almost colourless solution. A thin-layer chromatogram shows the product to be a mixture of isomers. Rf values of the two main products: 0.43 and 0.55 respectively [determined on ready prepared silica gel plates 6 OF-254, MERCK Darmstadt; eluant:toluene/ethanol (4:1)].

reactant | bromine | 6.7 g | BrBr | Br2
reactant | 3,4-dicyanoaniline | 5.7 g | C(#N)C=1C=C(N)C=CC1C#N | C8H5N3
reactant | sodium acetate | 3.6 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | bromo-3,4-dicyanoaniline | BrNC1=CC(=C(C=C1)C#N)C#N | C8H4BrN3
